US06664258B1
12.00 g (76.83 mmol, 1.0 equiv.) of 1,4 Cyclohexanedione ethylene ketal was added to 120 ml methylene chloride along with 18.8 g (99.88 mmol, 1.3 equiv.) of trimethyl sulfonium methyl sulfate. 40 ml 50% sodium hydroxide (NaOH) was added last and the reaction was refluxed for 24 hours. The methylene chloride was removed, 200 ml ether was added and the ether layer was washed with water. The organic layer was dried with sodium sulfate and concentrated down, leaving a yellow oil, 1,7,10-trioxa-dispiro[2.2.4.2]dodecane. (12.13 g, 93% yield). No further purification was necessary.

reactant | 1,4 Cyclohexanedione ethylene ketal | 76.83 mmol, 12.00 g, 1.0 equiv. | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | trimethyl sulfonium methyl sulfate | 99.88 mmol, 18.8 g, 1.3 equiv. | COS(=O)(=O)[O-].C[S+](C)C
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 1,7,10-trioxa-dispiro[2.2.4.2]dodecane | 93% yield | O1CC12CCC1(OCCO1)CC2 | C9H14O3
